US04125732
Methyl(p-benzyloxyphenoxy){p-[3- (p-chlorophenoxy)propoxy]phenyl}acetate
To a mixture of 8.27 g of methyl bromo{p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate, 5.0 g of p-benzyloxyphenol, 50 mg of potassium iodide, 10 ml of benzene and 40 ml of methanol is added 1.19 g of sodium methoxide. The mixture is refluxed for 24 hours and the solvent removed under reduced pressure. To the residue is added acetone and hexane and the solids filtered off. The filtrate is dried (MgSO4) and the solvent removed under reduced pressure. The residue is chromatographed over silica gel with dichloromethane as eluent. The oil obtained is crystallized from hexane-methanol to give 5.6 g of crystals. Recrystallization from methanol-ethyl acetate gives crystals, mp 98°-101° C.

reactant | methyl bromo{p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate | 8.27 g | BrC(C(=O)OC)C1=CC=C(C=C1)OCCCOC1=CC=C(C=C1)Cl | C18H18BrClO4
reactant | p-benzyloxyphenol | 5.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | benzene | 10 ml | C1=CC=CC=C1 | C6H6
reactant | sodium methoxide | 1.19 g | C[O-].[Na+]
catalyst | potassium iodide | 50 mg | [I-].[K+]
solvent | methanol | 40 ml | CO | CH4O
product | Methyl(p-benzyloxyphenoxy){p-[3- (p-chlorophenoxy)propoxy]phenyl}acetate | 5.6 g | COC(C(C1=CC=C(C=C1)OCCCOC1=CC=C(C=C1)Cl)OC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C31H29ClO6
